US03963777
93 g of 1,4-dibromobut-2-ene are treated in 250 ml of dimethylformamide with 35.5 g of anhydrous sodium acetate and stirred for 1 hour at 100°C. The mixture is extensively freed from dimethylformamide on a rotary evaporator and the residue is partitioned between water and methylene chloride. The methylene chloride phase is dried over calcium chloride, filtered and concentrated. The residue is distilled under a water-jet vacuum, whereby the fractions are collected between 95° and 105°C at 10-15 mm; nD25 =1.502. There is obtained 1-acetoxy-4-bromobut-2-ene as a colourless liquid.

reactant | 1,4-dibromobut-2-ene | 93 g | BrCC=CCBr | C4H6Br2
reactant | sodium acetate | 35.5 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1-acetoxy-4-bromobut-2-ene | C(C)(=O)OCC=CCBr | C6H9BrO2
